Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / lisinopril
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Patient is a ___ year old man w/ PMHx of asthma, morbid obesity 
who presents with syncope. 

Patient has chronic intermittent cough usually secondary to 
asthma with ___ exacerbations per year, most recently in ___. 
He reports for the past week he has been having increasing dry 
cough, in vigorous paroxysmal episodes. He saw his PCP for his 
on ___, reported exposure to sick contact (daughter has been 
diagnosed with pertussis). He reports having a sore throat, and 
irritation in his throat that he cannot expel.  Cough was felt 
to be possibly due to lisinopril as well as exposure to 
pertussis and his lisinopril was changed to amlodipine and he 
was prescribed a 5  day course of azithromycin which he 
completed. Despite this , he has continued to cough. On ___, he 
was in bed on his side, coughing vigorously and became 
unresponsive for a brief period. Wife noticed that the patient 
was somewhat rigid and was briefly unresponsive. He was seen in 
the ___, felt to be low risk per prediction rules, and he was 
discharged. 
 
He saw his PCP after the ___ visit. Given his elevated BMI, large 
neck circumference, and age, there was concern for OSA and he 
was referred for sleep study. Last night, he was sitting on a 
couch after dinner and coughing violently while sitting on cough 
and on trying to get up syncopized with no prodrome. Woke up 
within 10 seconds, wife who witnessed the episode confirmed 
syncope and fall to the ground. He denies any chest pain 
shortness of breath palpitation prior of the episode. He does 
not report any prodromal lightheadedness. He reports that 
throughout his life he is felt lightheaded after intense 
coughing, however it has been worsening now that his cough has 
been more persistent. He denies any new orthopnea or worsening 
leg swelling. He denies any family history of sudden cardiac 
death. 

In the ___, initial VS were: 98.6 87 168/94 18 100% RA   
___ labs including CBC, BMP, troponin unremarkable
EKG: Sinus rhythm, 82, normal axis, QTC 475, no Brugada syndrome 
or preexcitation
  
Transfer VS were: 98.8 86 128/62 16 100% RA 
When seen on the floor, during interview, he has en episode of 
persistent vigorous coughing, with his face becoming very red 
before he recovered. 
  
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.
 
Past Medical History:
intermitt hoarse from ___
urolith ___
obesity
hemorrhoids
rectal bleed: ___: Adenoma polyp ___: due retest ___
hx asthma
hx gastric ulcer
hx hiatal hernia
prior EGD ___
GERD
back pain p otj ijury ___
chonic polyarthralgia
I&D right breast abcess: ___ ___
 
Social History:
___
Family History:
M dec'd: ___ yo complcns of DM/Htn/cva's
 
Physical Exam:
ADMISSION PHYSICAL EXAM
 Gen: NAD, lying in bed, obese
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, Mallampatti score of 4, tongue occluded almost all of 
the oral cavity while coughing
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, obese, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect
============================
DISCHARGE PHYSICAL EXAM
 Vitals:97.7
PO 127 / 78 72 18 97 Ra 
 Gen: obese, NAD, lying in bed, obese
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, Mallampatti score of 4
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA 
bilaterally
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect
 
 
Pertinent Results:
___ 10:50PM   GLUCOSE-106* UREA N-15 CREAT-1.2 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-23 ANION GAP-18
___ 10:50PM   cTropnT-<0.01
___ 10:50PM   CALCIUM-9.2 PHOSPHATE-3.6 MAGNESIUM-2.3
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  UHOLD-HOLD
___ 10:50PM   WBC-11.6* RBC-4.74 HGB-13.2* HCT-38.6* 
MCV-81* MCH-27.8 MCHC-34.2 RDW-12.7 RDWSD-37.5
___ 10:50PM   NEUTS-75.3* LYMPHS-14.4* MONOS-7.4 EOS-1.5 
BASOS-0.5 IM ___ AbsNeut-8.77* AbsLymp-1.67 AbsMono-0.86* 
AbsEos-0.17 AbsBaso-0.06
___ 10:50PM   PLT SMR-NORMAL PLT COUNT-256
___ 10:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-7.0 
LEUK-NEG
___ 10:50PM URINE  RBC-1 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 10:50PM URINE  MUCOUS-RARE

CXR (___):
No evidence of acute cardiopulmonary abnormality.

ECHO (___): 
Conclusions   
 The left atrial volume index is normal. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF = 65%). The right ventricular 
free wall thickness is normal. The right ventricular cavity is 
mildly dilated with normal free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion.   

DISCHARGE LABS: 

___ 07:05AM BLOOD WBC-8.3 RBC-4.56* Hgb-12.6* Hct-37.2* 
MCV-82 MCH-27.6 MCHC-33.9 RDW-12.6 RDWSD-37.5 Plt ___
___ 07:05AM BLOOD Glucose-106* UreaN-16 Creat-0.8 Na-139 
K-3.7 Cl-102 HCO3-25 AnGap-16
___ 10:50PM BLOOD Glucose-106* UreaN-15 Creat-1.2 Na-140 
K-4.0 Cl-103 HCO3-23 AnGap-18
___ 10:50PM BLOOD Calcium-9.2 Phos-3.6 Mg-2.3
 
Brief Hospital Course:
SUMMARY: Mr. ___ is a ___ year old man w/ PMHx of asthma, 
morbid
obesity, and chronic intermittent cough usually secondary to 
asthma who presented with syncope in the setting of coughing 
fits during the past week.

He did describe one more possible event overnight when he 
remembers waking up from sleep in bed and remembers coughing 
right before that however it sounded as if he simply fell asleep 
while watching tv. He had no further events this 
hospitalization. Echo was done which showed no abnormalities. 
Telemetry monitoring revealed no concerning arrhythmias. 

This morning, the patient's cough is improved and he denies any 
chest pain, nausea, post-tussive vomiting.  He has been 
ambulating well without issues. Pt is ready to go home. I 
reviewed the plan, particularly the need for an outpatient sleep 
study with the patient and his wife at the bedside and they are 
in agreement. I explained the various reasons to come back to 
the hospital immediately including recurrent syncope or any 
other concerning symptoms. Mr. ___ wife plans to drive 
home since the patient has been receiving codeine and was 
counseled not to drive until his coughing has resolved. 

Rest of hospital course and plan are outlined below by issue: 

# Syncope: Most likely vasovagal syncope due to increased
intrathoracic pressure/Valsalva during coughing fits leading to
decreased venous return as well as transient hypoxia and airway
obstruction from tongue occluding oropharyngeal airway. His
obesity puts him at high risk for OSA and respiratory compromise
during these coughing episodes. Unfortunately there is no rapid
resolution to this, and treatment will have to approach his
multifactorial cough and obesity.  ECG was unremarkable, no
evidence of AV delay / block / conduction disease. CXR from ___ 
showed no evidence of acute cardiopulmonary abnormality
-he was monitored on telemetry overnight (no concerning events 
were seen)

# Cough
# Chronic asthma
Ddx for cough includes post-infectious cough vs ACEI-induced. 
Notably daughter had been diagnosed with pertussis however he 
has been adequately treated as he completed a 5d course of 
azithromycin prior to admission. 
-treated with guaifenesin-codeine, benznoatate
-ACEI was discontinued
-we continued his asthma regimen and he does not appear to be in 
acute exacerbation.
- continued Montelukast 10 mg PO DAILY 
- continued Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

- continued albuterol
- continued  Cetirizine 10 mg PO QHS 
- added gaifenesin and tessalon pearles for cough PRN

# Morbid obesity
Noted to have high Mallampatti score. Given neck circumference,
age, HTN, BMI, he most likely has undiagnosed OSA
- outpatient sleep study as below

# HTN
- continued amLODIPine 5 mg PO DAILY 

#Transitional Issues: 
-scheduled for sleep study on ___
-Rx: guaifenesin, benznoatate

spent > 30 minutes seeing the patent and organizing his 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Montelukast 10 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Ibuprofen 800 mg PO Q6H:PRN Pain - Severe 
5. Aspirin 81 mg PO DAILY 
6. Cetirizine 10 mg PO QHS 
7. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN 
8. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  Benzonatate 200 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth every 8 hours Disp 
#*30 Capsule Refills:*0 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 200 mg 1 tablet by mouth every 4 hours Disp #*24 
Tablet Refills:*0 
3.  albuterol sulfate 2 puffs inhalation Q4H:PRN wheezing, 
shortness of breath  
4.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN  

5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Cetirizine 10 mg PO QHS  
8.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
9.  Ibuprofen 800 mg PO Q6H:PRN Pain - Severe  
10.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Syncope
# Cough
# Chronic asthma
# Obesity
# Likely obstructive sleep apnea
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 You were hospitalized at ___. 

 

Why were you in the hospital?
 =======================
# Syncope
# Cough
# Chronic asthma
# Obesity
# Likely obstructive sleep apnea
 

 

What did we do for you?
 =======================
 - your heart was monitored closely
 - and echocardiogram was done
 - you were given medications to help your cough

 

 

What do you need to do?
 =======================
 - you should follow up with your primary care doctor within 1 
week after discharge for a referral for nocturnal 
polysomnography (sleep study) as you probably have obstructive 
sleep apnea (OSA)
 - your recent blood pressure medication lisinopril, may have 
played a role in your cough and you should continue to hold this 
medication and take your other antihypertensive medication 
(amlodipine) as prescribed. 
 - we recommend talking to your primary care doctor also about 
weight loss strategies 
 

 

 Please follow up with your primary care doctor.

 

It was a pleasure taking care of you. We wish you the best!

Sincerely,
 Your ___ Medicine Team 
 
Followup Instructions:
___